US05874430
To a stirred, cooled (0° C.) solution of 188 mL (658 mmol) of a 3.5M solution of cyclopropylacetylene in toluene was added 200 mL of THF. The solution was re-cooled to 0° C. and treated with 264 mL (660 mmol) of a 2.5M solution of n-BuLi in hexanes over 15 min. The solution was stirred an additional 40 min. at 0° C. and treated with 100 g(663 mmol) of t-butyldimethylsilyl chloride in 60 mL of THF over 10 min. After stirring 90 min. at 0° C. the reaction was quenched with saturated aq. NH4Cl and poured into 500 mL of water. The mixture was extracted with 500 mL of ether, and the organic extract was washed three times with water and once with brine. Concentration under reduced pressure followed by distillation afforded 49 g(42%) of 1-(t-butyldimethylsilyl)-2-cyclopropylacetylene as a colorless oil (b.p. 39°-42° C. at 0.5 torr). 1H NMR(CDCl3, 300 MHz ) δ1.17-1.24(m, 1H); 0.95(s, 9H); 0.61-0.75(m, 4H); 0.00(s, 6H).

reactant | cyclopropylacetylene | C1(CC1)C#C | C5H6
reactant | n-BuLi | [Li]CCCC
reactant | t-butyldimethylsilyl chloride | 663 mmol, 100 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(t-butyldimethylsilyl)-2-cyclopropylacetylene | 49 g, 42% | [Si](C)(C)(C(C)(C)C)C#CC1CC1 | C11H20Si
